US05362878
Ethyl 2-(4-t-Butylphenylthio)octanoate
A mixture of 5.0 g (0.02 mole) ethyl 2-bromooctanoate, 3.37 g (0.02 mole) p-t-butylthiophenol and 3.31 g (0.24 mole) potassium carbonate in 70 ml acetone was refluxed under nitrogen overnight. The reaction mixture was cooled to room temperature and filtered and the filtrate was concentrated in vacuo. The residue was chromatographed on 500 g silica gel, eluting with 6:4 methylene chloride/hexane to yield 3.8 g (57% yield) of the desired product as an oil.

reactant | ethyl 2-bromooctanoate | 0.02 mole, 5.0 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | p-t-butylthiophenol | 0.02 mole, 3.37 g | C(C)(C)(C)C1=CC=C(C=C1)S | C10H14S
reactant | potassium carbonate | 0.24 mole, 3.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | Ethyl 2-(4-t-Butylphenylthio)octanoate | 3.8 g, 57% yield | C(C)(C)(C)C1=CC=C(C=C1)SC(C(=O)OCC)CCCCCC | C20H32O2S
